US08729102B2
A) tert-butyl {(1S)-2-[4-(6-ethoxy-3-fluoropyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate
A mixture of tert-butyl {(1S)-2-[4-(6-ethoxypyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate (400 mg), 1,1′-difluoro-2,2′-bipyridinium bis(tetrafluoroborate) (358 mg) and acetonitrile (3 mL) was stirred at room temperature for 3 hr. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The separated organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as colorless crystals (129 mg).

reactant | tert-butyl {(1S)-2-[4-(6-ethoxypyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate | 400 mg | C(C)OC=1C=CC=2N(C1)N=C(C2)C2=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C2 | C23H29N3O4
reactant | 1,1′-difluoro-2,2′-bipyridinium bis(tetrafluoroborate) | 358 mg | F[B-](F)(F)F.F[B-](F)(F)F.F[N+]1=C(C=CC=C1)C1=[N+](C=CC=C1)F
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | tert-butyl {(1S)-2-[4-(6-ethoxy-3-fluoropyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate | 129 mg | C(C)OC=1C=CC=2N(C1)N=C(C2F)C2=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C2 | C23H28FN3O4
